US04231953
To a solution of 4-fluoro-3-phenoxybenzaldehyde (0.39 g, 1.8 mmol) in 25 ml of ether is added 25 ml of water followed by sodium cyanide (0.149 g, 3.04 mmol). The mixture is stirred vigorously while a solution of sodium bisulfite (0.257 g, 2.47 mmol) in 15 ml of water is added over about 5 minutes. The reaction mixture is stirred for two hours. The organic phase is separated, washed with water, dried over calcium sulfate and solvent evaporated to give α-cyano-4-fluoro-3-phenoxybenzyl alcohol

reactant | 4-fluoro-3-phenoxybenzaldehyde | 1.8 mmol, 0.39 g | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
reactant | sodium cyanide | 3.04 mmol, 0.149 g | [C-]#N.[Na+]
reactant | sodium bisulfite | 2.47 mmol, 0.257 g | S([O-])(O)=O.[Na+]
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | water | 15 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | α-cyano-4-fluoro-3-phenoxybenzyl alcohol | C(#N)C(C1=CC(=C(C=C1)F)OC1=CC=CC=C1)O | C14H10FNO2
